US08623859B2
2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methyl-1,3-oxazole-4-carboxamide
The title compound was prepared according to general procedure AH using 2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid (100 mg, 0.26 mmol), the bis HCl salt of 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine (65 mg, 0.23 mmol), EDCI (60 mg, 0.31 mmol), HOBt (42 mg, 0.31 mmol) and DIPEA (0.2 mL, 1.04 mmol) in DMF (8 mL).

reactant | 2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.26 mmol, 100 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)O | C17H20N2O6S
reactant | HCl | Cl | ClH
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine | 0.23 mmol, 65 mg | N1C(=NCC1)C1=CC=C(C=C1)CCNC | C12H17N3
reactant | EDCI | 0.31 mmol, 60 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.31 mmol, 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.04 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methyl-1,3-oxazole-4-carboxamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N(C)CCC1=CC=C(C=C1)C=1NCCN1 | C29H35N5O5S
